US07615563B2
3-Chloro-N-[4-(thiazol-2-ylsulfamoyl)-phenyl]-propionamide
Synthesized according to general procedure 1: N′-(2-thiazolyl)sulfanilamide (8.37 g, 32.8 mmol), pyridine (5.3 mL, 65.6 mmol), 2-chloro-propionylchloride (3.8 mL, 39.4 mmol, 1.2 equiv) in DCM (400 mL). Yield: 2.70 g (24%) of a white solid. 1H-NMR (DMSO-d6) δ 10.41 (s, 1H), 7.77-7.72 (m, 4H), 7.25 (d, J=4.6 Hz, 1H), 6.82 (d, J=4.6 Hz, 1H), 3.88 (t, J=6.2 Hz, 2H), 2.86 (t, J=6.2 Hz, 2H). LC/MS (10-99%) M/Z: M+1 obs=346.1; tR=1.94 min.

reactant | N′-(2-thiazolyl)sulfanilamide | 32.8 mmol, 8.37 g | C1=CC(=CC=C1N)S(=O)(=O)NC2=NC=CS2 | C9H9N3O2S2
reactant | pyridine | 65.6 mmol, 5.3 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-propionylchloride | 39.4 mmol, 3.8 mL, 1.2 equiv | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-N-[4-(thiazol-2-ylsulfamoyl)-phenyl]-propionamide | ClCCC(=O)NC1=CC=C(C=C1)S(NC=1SC=CN1)(=O)=O | C12H12ClN3O3S2
